US07332631B2
To a solution of 3-iodobenzoic acid (24.8 g, 100.0 mmol) was dissolved in anhydrous DMF (100.0 mL) was added potassium carbonate (6.9 g, 50.0 mmol). The reaction mixture was heated to 100° C. for 5 minutes and sodium sulphide (4.3 g, 55.0 mmol) and copper iodide (1.9 g, 10.0 mmol) was added and the reaction mixture was heated to reflux under an atmosphere of nitrogen for 12 hours. Water (500.0 mL) was then added and the reaction mixture was heated to boiling with activated carbon. The carbon was filtered off while hot into an excess of 6N HCl (50.0 mL). A precipitate formed on cooling to room temperature and was collected by filtration and washed with water to afford (5.36 g, 19.5%) of the desired 3-[(carboxyphenyl)sulfanyl]benzenecarboxylic acid (GM71/7) as an off-white powder. M.S. m/z 272.73 (M−1)+. 1H NMR (300.13, d6-DMSO) 7.32-7.63 (4H, m, 4×ArH), 7.84-7.99 (4H, m, 4×ArH).

reactant | 3-iodobenzoic acid | 100.0 mmol, 24.8 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | potassium carbonate | 50.0 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium sulphide | 55.0 mmol, 4.3 g | [S-2].[Na+].[Na+]
reactant | Water | 500.0 mL | O | H2O
solvent | DMF | 100.0 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 10.0 mmol, 1.9 g | [Cu](I)I
product | 3-[(carboxyphenyl)sulfanyl]benzenecarboxylic acid | 5.36 g, 19.5% | C(=O)(O)C1=C(C=CC=C1)SC=1C=C(C=CC1)C(=O)O | C14H10O4S
